US08114886B2
[[[[5-[(2,5-Difluorophenyl)[(4-fluorophenyl)sulfonyl]methyl]-4-methylpyridin-2-yl]carbonyl]amino]methoxy]acetic acid
To a mixed solution of ethyl [[[[5-[(2,5-difluorophenyl)[(4-fluorophenyl)sulfonyl]methyl]-4-methylpyridin-2-yl]carbonyl]amino]methoxy]acetate (167 mg, 0.311 mmol) in tetrahydrofuran (6 ml) and water (3 ml), lithium hydroxide monohydrate (16 mg, 0.373 mmol) was added, and the mixture was stirred for 20 hours at room temperature. 1 N hydrochloric acid (0.5 ml) and water were added to the reaction solution, and the mixture was extracted with methylene chloride. The organic layer was dried over anhydrous sodium sulfate and filtered, and then the filtrate was concentrated under reduced pressure. The resulting concentration residue was subjected to flash silica gel column chromatography, and the fraction obtained from an elution with methanol:methylene chloride (=1:10) was concentrated under reduced pressure. A mixed solution of ethyl acetate-hexane was added to the resulting concentration residue, and then the residue was collected by filtration to obtain the title compound (38 mg, 0.075 mmol, 24%) as a white powder.

reactant | ethyl [[[[5-[(2,5-difluorophenyl)[(4-fluorophenyl)sulfonyl]methyl]-4-methylpyridin-2-yl]carbonyl]amino]methoxy]acetate | 0.311 mmol, 167 mg | FC1=C(C=C(C=C1)F)C(C=1C(=CC(=NC1)C(=O)NCOCC(=O)OCC)C)S(=O)(=O)C1=CC=C(C=C1)F | C25H23F3N2O6S
reactant | lithium hydroxide monohydrate | 0.373 mmol, 16 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 1 N, 0.5 ml | Cl | ClH
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | water | 3 ml | O | H2O
product | [[[[5-[(2,5-Difluorophenyl)[(4-fluorophenyl)sulfonyl]methyl]-4-methylpyridin-2-yl]carbonyl]amino]methoxy]acetic acid | 0.075 mmol, 38 mg, 24% | FC1=C(C=C(C=C1)F)C(C=1C(=CC(=NC1)C(=O)NCOCC(=O)O)C)S(=O)(=O)C1=CC=C(C=C1)F | C23H19F3N2O6S
